US07211601B2
tert-butyl 3-[({(2S,4EZ)-4-(ethoxyimino)-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]pyrrolidinyl}carbonyl)amino]-1-azetidinecarboxylate
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid, 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride, and tert-butyl 3-amino-1-azetidinecarboxylate the title compound was obtained in 100% purity by LC/MS. MS(ESI+): m/z=519.6.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC)C(=O)O | C12H20N2O5
reactant | 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride | O=C1OC(=CC=C1C(=O)Cl)CCCCC | C11H13ClO3
reactant | tert-butyl 3-amino-1-azetidinecarboxylate | NC1CN(C1)C(=O)OC(C)(C)C | C8H16N2O2
product | tert-butyl 3-[({(2S,4EZ)-4-(ethoxyimino)-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]pyrrolidinyl}carbonyl)amino]-1-azetidinecarboxylate | C(C)ON=C1C[C@H](N(C1)C(=O)C=1C(OC(=CC1)CCCCC)=O)C(=O)NC1CN(C1)C(=O)OC(C)(C)C | C26H38N4O7
